### PR TITLE
feat: add BitVec.getElem_[add|add_add_bool|mul|rotateLeft|rotateRight…

### PR DESCRIPTION
**Pull request by tobiasgrosser**
…|twoPow|one|replicate]

... and mark `getElem_setWidth` as `@[simp]`.

`getElem_rotateLeft` and `getElem_rotateRight` have a non-trivial rhs but we follow `getLsbD_[rotateLeft|rotateRight]`for consistency.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -2369,6 +2387,12 @@ theorem getLsbD_twoPow (i j : Nat) : (twoPow w i).getLsbD j = ((i < w) && (i = j
           simp at hi
         simp_all
 
+@[simp]
+theorem getElem_twoPow (i j : Nat) (h : j < w) : (twoPow w i)[j] = decide (i = j) := by
+  rw [←getLsbD_eq_getElem, getLsbD_twoPow]
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:2392]:
```suggestion
theorem getElem_twoPow {i j : Nat} (h : j < w) : (twoPow w i)[j] = decide (i = j) := by
  rw [←getLsbD_eq_getElem, getLsbD_twoPow]
```

File: src/Init/Data/BitVec/Bitblast.lean [hunk 2]
```diff
@@ -368,6 +379,10 @@ theorem getLsbD_mul (x y : BitVec w) (i : Nat) :
   · simp
   · omega
 
+theorem getElem_mul (x y : BitVec w) (i : Nat) (h : i < w) :
+    (x * y)[i] = (mulRec x y w)[i] := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Bitblast.lean:383]:
```suggestion
theorem getElem_mul (x y : BitVec w) (i : Nat) (h : i < w) :
    (x * y)[i] = (mulRec x y w)[i] := by
```
```suggestion
theorem getElem_mul {x y : BitVec w} {i : Nat} (h : i < w) :
    (x * y)[i] = (mulRec x y w)[i] := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -2369,6 +2387,12 @@ theorem getLsbD_twoPow (i j : Nat) : (twoPow w i).getLsbD j = ((i < w) && (i = j
           simp at hi
         simp_all
 
+@[simp]
+theorem getElem_twoPow {i j : Nat} (h : j < w) : (twoPow w i)[j] = decide (i = j) := by
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2391]: This is a bit dumb, but could we have `decide (j = i)` instead? `j` feels more like "the variable" here.

Similarly for `getElem_one` below.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -2504,6 +2532,14 @@ theorem getLsbD_replicate {n w : Nat} (x : BitVec w) :
       simp only [show ¬i < w * n by omega, decide_False, cond_false, hi, Bool.false_and]
       apply BitVec.getLsbD_ge (x := x) (i := i - w * n) (ge := by omega)
 
+@[simp]
+theorem getElem_replicate {n w : Nat} (x : BitVec w) (h : i < w * n) :
+    (x.replicate n)[i] = x.getLsbD (i % w) := by
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2537]: This could be `= x[i]'(proof goes here)`.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -2341,6 +2350,15 @@ theorem getLsbD_rotateRight {x : BitVec w} {r i : Nat} :
   · simp
   · rw [← rotateRight_mod_eq_rotateRight, getLsbD_rotateRight_of_le (Nat.mod_lt _ (by omega))]
 
+@[simp]
+theorem getElem_rotateRight {x : BitVec w} {r i : Nat} (h : i < w) :
+    (x.rotateRight r)[i] =
+      cond (i < w - (r % w))
+      (x.getLsbD ((r % w) + i))
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2357]: This can be a `getElem` as well, right? You might have to change the `cond` to an `if` so that `omega` can see the condition.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -2260,6 +2261,14 @@ theorem getLsbD_rotateLeft {x : BitVec w} {r i : Nat}  :
   · simp
   · rw [← rotateLeft_mod_eq_rotateLeft, getLsbD_rotateLeft_of_le (Nat.mod_lt _ (by omega))]
 
+@[simp]
+theorem getElem_rotateLeft {x : BitVec w} {r i : Nat} (h : i < w) :
+    (x.rotateLeft r)[i] =
+      cond (i < r % w)
+      (x.getLsbD (w - (r % w) + i))
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2268]: As for `getElem_rotateRight`.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 7]
```diff
@@ -368,6 +379,10 @@ theorem getLsbD_mul (x y : BitVec w) (i : Nat) :
   · simp
   · omega
 
+theorem getElem_mul {x y : BitVec w} {i : Nat} (h : i < w) :
+    (x * y)[i] = (mulRec x y w)[i] := by
+  simp [mulRec_eq_mul_signExtend_setWidth]
+
```
Comment (kim-em) [inline src/Init/Data/BitVec/Bitblast.lean:385]: I am little skeptical this would ever be a useful step.

**Comment by tobiasgrosser** [comment]
@kim-em, I just tried this for `getElem_rotateRight`, but I seem unable to access the condition of the if-condition from omega:
```lean
@[simp]
theorem getElem_rotateLeft {x : BitVec w} {r i : Nat} (h : i < w) :
    (x.rotateLeft r)[i] =
      if (i < r % w) then
      (x[(w - (r % w) + i)]'(by /- I do not get `i < r % w` here -/ sorry)) else
      (x[i - (r % w)]'(by omega)) := by
  simp [← BitVec.getLsbD_eq_getElem, h]
```

**Comment by kim-em** [comment]
> @kim-em, I just tried this for `getElem_rotateRight`, but I seem unable to access the condition of the if-condition from omega:
> ```lean
> @[simp]
> theorem getElem_rotateLeft {x : BitVec w} {r i : Nat} (h : i < w) :
>     (x.rotateLeft r)[i] =
>       if (i < r % w) then
>       (x[(w - (r % w) + i)]'(by /- I do not get `i < r % w` here -/ sorry)) else
>       (x[i - (r % w)]'(by omega)) := by
>   simp [← BitVec.getLsbD_eq_getElem, h]
> ```

You need to name the condition: `if h : c then t else e`.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 3 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Done.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 4 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: I had to introduce an `if w = 0 then false else ...` but otherwise this change is a great improvement.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 5 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Done.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 6 above)
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Done.

**Comment by tobiasgrosser** [comment]
> > @kim-em, I just tried this for `getElem_rotateRight`, but I seem unable to access the condition of the if-condition from omega:
> > ```lean
> > @[simp]
> > theorem getElem_rotateLeft {x : BitVec w} {r i : Nat} (h : i < w) :
> >     (x.rotateLeft r)[i] =
> >       if (i < r % w) then
> >       (x[(w - (r % w) + i)]'(by /- I do not get `i < r % w` here -/ sorry)) else
> >       (x[i - (r % w)]'(by omega)) := by
> >   simp [← BitVec.getLsbD_eq_getElem, h]
> > ```
> 
> You need to name the condition: `if h : c then t else e`.

Perfect. This was the hint I needed.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 8]
```diff
@@ -2260,6 +2261,12 @@ theorem getLsbD_rotateLeft {x : BitVec w} {r i : Nat}  :
   · simp
   · rw [← rotateLeft_mod_eq_rotateLeft, getLsbD_rotateLeft_of_le (Nat.mod_lt _ (by omega))]
 
+@[simp]
+theorem getElem_rotateLeft {x : BitVec w} {r i : Nat} (h : i < w) :
+    (x.rotateLeft r)[i] =
+      if h' : i < r % w then x[(w - (r % w) + i)]'(by omega) else x[i - (r % w)]'(by omega) := by
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2267]:
```suggestion
      if h' : i < r % w then x[(w - (r % w) + i)] else x[i - (r % w)] := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 9]
```diff
@@ -2369,6 +2382,12 @@ theorem getLsbD_twoPow (i j : Nat) : (twoPow w i).getLsbD j = ((i < w) && (i = j
           simp at hi
         simp_all
 
+@[simp]
+theorem getElem_twoPow {i j : Nat} (h : j < w) : (twoPow w i)[j] = decide (j = i) := by
+  rw [←getLsbD_eq_getElem, getLsbD_twoPow]
+  simp [show i = j ↔ j = i by omega]
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2388]:
```suggestion
  simp [eq_comm]
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 10]
```diff
@@ -2504,6 +2527,13 @@ theorem getLsbD_replicate {n w : Nat} (x : BitVec w) :
       simp only [show ¬i < w * n by omega, decide_False, cond_false, hi, Bool.false_and]
       apply BitVec.getLsbD_ge (x := x) (i := i - w * n) (ge := by omega)
 
+@[simp]
+theorem getElem_replicate {n w : Nat} (x : BitVec w) (h : i < w * n) :
+    (x.replicate n)[i] = if h' : w = 0 then false else x[i % w]'(@Nat.mod_lt i w (by omega)) := by
+  simp only [← getLsbD_eq_getElem, getLsbD_replicate]
+  by_cases h' : w = 0
+  <;> simp [h'] ; omega
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2535]:
```suggestion
  by_cases h' : w = 0 <;> simp [h'] <;> omega

```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 11]
```diff
@@ -2341,6 +2348,12 @@ theorem getLsbD_rotateRight {x : BitVec w} {r i : Nat} :
   · simp
   · rw [← rotateRight_mod_eq_rotateRight, getLsbD_rotateRight_of_le (Nat.mod_lt _ (by omega))]
 
+@[simp]
+theorem getElem_rotateRight {x : BitVec w} {r i : Nat} (h : i < w) :
+    (x.rotateRight r)[i] = if h' : i < w - (r % w) then x[(r % w) + i]'(by omega) else x[(i - (w - (r % w)))] := by
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2353]:
```suggestion
    (x.rotateRight r)[i] = if h' : i < w - (r % w) then x[(r % w) + i] else x[(i - (w - (r % w)))] := by
```

**Review by kim-em — APPROVED** [review]
Otherwise LGTM now.

**Comment by tobiasgrosser** [comment]
All comments addressed. This now looks very neat.
